US07494992B2
Preparation 101: 4-[(piperidin-4-yloxy)methyl]benzoic acid
1-acetyl-4-[(piperidin-4-yloxy)methyl]benzoic acid (Preparation 102, 20 g, 72 mmol), aqueous sodium hydroxide solution (5 M, 75 ml), and methanol (75 ml) were heated to 100° C. for 4 h, and then evaporated to give a thick suspension. The crystals were filtered off, dissolved in water and the pH adjusted to 1 with hydrochloric acid (2 M, 200 ml) at 0° C. The cloudy solution was evaporated to dryness and the white solid recrystallised from isopropyl alcohol to give the title compound (15.2 g, 90%).

reactant | 1-acetyl-4-[(piperidin-4-yloxy)methyl]benzoic acid | 72 mmol, 20 g | C(C)(=O)C1(C(=O)O)CC=C(C=C1)COC1CCNCC1 | C15H21NO4
reactant | sodium hydroxide | 5 M, 75 ml | [OH-].[Na+]
solvent | methanol | 75 ml | CO | CH4O
product | 4-[(piperidin-4-yloxy)methyl]benzoic acid | 15.2 g, 90% | N1CCC(CC1)OCC1=CC=C(C(=O)O)C=C1 | C13H17NO3
